US07517987B2
Step E: 5-Fluoro-4-oxo-3-[(S)-2-(2-oxo-2H-pyridin-1-yl)-propionylamino]-pentanoic acid
Trifluoroacetic acid (2 ml) was added to a stirred ice cold solution of 5-Fluoro-4-oxo-3-[(S)-2-(2-oxo-2H-pyridin-1-yl)-propionylamino]-pentanoic acid tert-butyl ester (115 mg, 0.32 mmol)in anhydrous dichloromethane (2 ml). The mixture was stirred at 0° C. for 0.5 h then at room temperature for 0.5 h. The mixture was concentrated under reduced pressure and then the residue was redissolved in dry dichloromethane. This process was repeated several times in order to remove excess trifluoroacetic acid. The gum was lyophilized twice from HPLC grade water to afford the title compound as an off white solid: IR (solid) 1789, 1730, 1654 cm−1; 1H NMR (400 MHz, DMSO) δ 1.4-1.6 (3H, m), 2.5-2.9 (2H, m), 4.2-4.7 (2H, m), 5.0-5.5 (2H, m), 6.2-6.3 (1H, m), 6.3-6.5 (1H, m), 7.3-7.4 (1H, m), 7.6-7.7 (1H, m), 8.4-8.9 (1H, m); 13C NMR (100 MHz, DMSO) δ 17.15, 17.27, 17.61, 17.87, 17.94, 33.50, 33.57, 35.02, 35.23, 35.31, 52.69, 53.08, 53.31, 53.42, 53.47, 53.79, 53.91, 54.49, 54.85, 81.55, 81.92, 83.31, 83.68, 83.95, 84.07, 85.72, 85.84, 105.87, 106.07, 106.19, 119.67, 119.86, 120.26, 137.05, 137.31, 137.36, 137.40, 137.43, 140.60, 140.65, 140.74, 140.85, 162.14, 162.18, 162.28, 162.32, 171.25, 171.48, 171.62, 171.69, 172.55, 172.63, 173.63, 173.67, 174.52, 203.04, 203.18, 203.28, 203.42; MS (FAB+ve, HR) Calculated for C13H16FN2O5 (MH+) 299.1043, found 299.1045.

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-Fluoro-4-oxo-3-[(S)-2-(2-oxo-2H-pyridin-1-yl)-propionylamino]-pentanoic acid tert-butyl ester | 0.32 mmol, 115 mg | C(C)(C)(C)OC(CC(C(CF)=O)NC([C@H](C)N1C(C=CC=C1)=O)=O)=O | C17H23FN2O5
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5-Fluoro-4-oxo-3-[(S)-2-(2-oxo-2H-pyridin-1-yl)-propionylamino]-pentanoic acid | FCC(C(CC(=O)O)NC([C@H](C)N1C(C=CC=C1)=O)=O)=O | C13H15FN2O5
